US09108957B2
To a solution of (S)-4-(4-(1,6-dihydro-1-methyl-6-oxo-4-(pyrimidin-4-yl)pyrimidin-2-yl)-[1,4]oxazepan-6-yl)benzonitrile (183 mg, 0.471 mmol) in ethanol (0.95 ml) was added 50 wt. %—hydroxylamine aqueous solution (96.4 mg, 1.46 mmol) at room temperature. The mixture was stirred at 80° C. for 2 hours and concentrated. The residue was partitioned between water and ethyl acetate. The organic layer was dried over sodium sulfate and concentrated in vacuo. N,N-dimethylformamide (0.95 ml), triethylamine (143 mg, 1.41 mmol) and acetic anhydride (62.5 mg, 0.612 mmol) was added to the residue at 0° C. The mixture was stirred at room temperature. After 2 hours, the mixture was heated to 135° C. and stirred for 2 hours. The resulting mixture cooled to room temperature was partitioned between water and chloroform. The organic layer was washed with brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by silica gel column chromatography (eluent: chloroform/methanol=97/3) to afford (S)-3-methyl-2-(6-(4-(5-methyl-1,2,4-oxadiazol-3-yl)phenyl)-[1,4]oxazepan-4-yl)-6-(pyrimidin-4-yl)pyrimidin-4(3H)-one (A085) as white solid (126 mg, 60%).

reactant | (S)-4-(4-(1,6-dihydro-1-methyl-6-oxo-4-(pyrimidin-4-yl)pyrimidin-2-yl)-[1,4]oxazepan-6-yl)benzonitrile | 0.471 mmol, 183 mg | CN1C(=NC(=CC1=O)C1=NC=NC=C1)N1CCOC[C@H](C1)C1=CC=C(C#N)C=C1 | C21H20N6O2
reactant | hydroxylamine | 1.46 mmol, 96.4 mg | NO | H3NO
reactant | triethylamine | 1.41 mmol, 143 mg | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.612 mmol, 62.5 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethanol | 0.95 ml | C(C)O | C2H6O
solvent | N,N-dimethylformamide | 0.95 ml | CN(C=O)C | C3H7NO
product | (S)-3-methyl-2-(6-(4-(5-methyl-1,2,4-oxadiazol-3-yl)phenyl)-[1,4]oxazepan-4-yl)-6-(pyrimidin-4-yl)pyrimidin-4(3H)-one | CN1C(=NC(=CC1=O)C1=NC=NC=C1)N1CCOC[C@H](C1)C1=CC=C(C=C1)C1=NOC(=N1)C | C23H23N7O3
